US05324747
Using this procedure, the reaction of 4-nitrocatechol with 1-bromodecane gave 3,4-bis-(decyloxy)nitrobenzene (mp 60°-61°, Anal, Calcd for C26H45NO4 : C, 71.68; H, 10.41; N, 3.22. Found: C, 71.63; H, 10.55; N, 3.21.

reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
product | 3,4-bis-(decyloxy)nitrobenzene | C(CCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCC)[N+](=O)[O-] | C26H45NO4
